US04093725
7-(3-t-Butylamino-2-hydroxypropoxy)-1(2H)-phthalazinthione was reacted with hydrazine hydrate in a similar manner to that described in Example 1(viii) to give 7-(3-t-butylamino-2-hydroxypropoxy)-1-hydrazinophthalazine.

reactant | 7-(3-t-Butylamino-2-hydroxypropoxy)-1(2H)-phthalazinthione | C(C)(C)(C)NCC(COC1=CC=C2C=NNC(C2=C1)=S)O | C15H21N3O2S
reactant | hydrazine hydrate | O.NN
product | 7-(3-t-butylamino-2-hydroxypropoxy)-1-hydrazinophthalazine | C(C)(C)(C)NCC(COC1=CC=C2C=NN=C(C2=C1)NN)O | C15H23N5O2
